US08222266B2
4-(2,4-dimethyl-1,3-thiazol-5-yl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride (E11)
4-(2,4-Dimethyl-thiazol-5-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one was treated with 4N HCl in dioxane (1 eq), to give the title compound.

reactant | 4-(2,4-Dimethyl-thiazol-5-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one | CC=1SC(=C(N1)C)C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H27F3N4OS
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1 eq | O1CCOCC1 | C4H8O2
product | 4-(2,4-dimethyl-1,3-thiazol-5-yl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride | Cl.CC=1SC(=C(N1)C)C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C25H27F3N4OS.ClH/c1-16-22(34-17(2)29-16)21-9-12-32(23(33)30-21)11-4-3-10-31-14-20-13-24(20,15-31)18-5-7-19(8-6-18)25(26,27)28;/h5-9,12,20H,3-4,10-11,13-15H2,1-2H3;1H/t20-,24+;/m0./s1
